*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:08:28 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "AOI2BB2X4"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  AOI2BB2X4 A0N B0 Y A1N B1
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A0N 2.50865e-16
*|P (A0N X 0 0.5000 1.0450)
*|I (Mmn0:g Mmn0 g X 0 0.5375 0.4450)
*|I (Mmp0:g Mmp0 g X 0 0.5375 1.2200)
*|S (A0N:2 0.5100 0.7550)
C1 Mmp0:g VSS 4.95524e-17
C2 Mmn0:g VSS 3.51804e-17
C3 A0N:2 VSS 9.22982e-17
C4 A0N VSS 7.38338e-17
Rl1 A0N:2 Mmn0:g 56.461002 $W=0.039
Rl2 Mmp0:g A0N:2 91.076385 $W=0.039
Rk3 A0N A0N:2 45.174026 $W=0.1
*
*|NET B0 8.24795e-16
*|P (B0 X 0 2.7000 0.6650)
*|I (Mmn4@1:g Mmn4@1 g X 0 2.5925 0.4050)
*|I (Mmn4@2:g Mmn4@2 g X 0 3.2075 0.4050)
*|I (Mmn4@3:g Mmn4@3 g X 0 3.4125 0.4050)
*|I (Mmn4:g Mmn4 g X 0 3.9725 0.4050)
C5 Mmn4:g VSS 3.46685e-17
C6 Mmn4@3:g VSS 3.87089e-17
C7 Mmn4@2:g VSS 2.92311e-17
C8 Mmn4@1:g VSS 3.79241e-17
C9 B0 VSS 6.84263e-16
Rl4 B0 Mmn4@1:g 41.187286 $W=0.039
Rl5 B0 Mmn4@2:g 39.617443 $W=0.039
Rl6 B0 Mmn4@3:g 41.541222 $W=0.039
Rl7 B0 Mmn4:g 39.560440 $W=0.039
*
*|NET Y 7.43567e-16
*|P (Y X 0 2.7000 1.0450)
*|I (Mmn3@1:d Mmn3@1 d X 0 1.4600 0.4050)
*|I (Mmn3@3:d Mmn3@3 d X 0 2.0800 0.4050)
*|I (Mmn5@1:s Mmn5@1 s X 0 2.9300 0.4050)
*|I (Mmn5@3:s Mmn5@3 s X 0 3.6800 0.4050)
*|S (Y:10 2.5050 0.4950)
*|S (Y:12 2.0800 0.4750)
C10 Mmn5@3:s VSS 8.88579e-17
C11 Mmn5@1:s VSS 4.73779e-17
C12 Mmn3@3:d VSS 8.89367e-17
C13 Mmn3@1:d VSS 7.92444e-17
C14 Y:10 VSS 8.94811e-17
C15 Y VSS 3.49669e-16
Rk8 Y:10 Y 0.490158 $W=0.09
Rk9 Y:12 Y:10 0.297702 $W=0.09
Rk10 Y:12 Mmn3@1:d 75.468628 $W=0.08
Rk11 Y:12 Mmn3@3:d 75.000000 $W=0.09
Rk12 Y:10 Mmn5@1:s 75.313316 $W=0.09
Rk13 Y Mmn5@3:s 75.382133 $W=0.0815
*
*|NET A1N 2.49666e-16
*|P (A1N X 0 0.3000 0.8550)
*|I (Mmn1:g Mmn1 g X 0 0.2575 0.4450)
*|I (Mmp1:g Mmp1 g X 0 0.3325 1.2200)
*|S (A1N:2 0.2950 0.7550)
C16 Mmp1:g VSS 4.59666e-17
C17 Mmn1:g VSS 3.13738e-17
C18 A1N:2 VSS 8.07551e-17
C19 A1N VSS 9.15706e-17
Rl14 A1N:2 Mmn1:g 57.142857 $W=0.039
Rl15 Mmp1:g A1N:2 92.307693 $W=0.039
Rk16 A1N A1N:2 45.060009 $W=0.1
*
*|NET B1 5.88857e-16
*|P (B1 X 0 3.1000 0.8550)
*|I (Mmn5@1:g Mmn5@1 g X 0 2.8275 0.4050)
*|I (Mmn5@2:g Mmn5@2 g X 0 3.0325 0.4050)
*|I (Mmn5@3:g Mmn5@3 g X 0 3.5375 0.4050)
*|I (Mmn5:g Mmn5 g X 0 3.8225 0.4050)
*|S (B1:2 3.0175 0.6325)
C20 Mmn5:g VSS 4.36251e-17
C21 Mmn5@3:g VSS 5.28195e-17
C22 Mmn5@2:g VSS 2.849e-17
C23 Mmn5@1:g VSS 4.09795e-17
C24 B1:2 VSS 2.23387e-17
C25 B1 VSS 4.00604e-16
Rl17 B1:2 B1 38.267857 $W=0.069
Rl18 B1:2 Mmn5@1:g 90.713402 $W=0.039
Rl19 Mmn5@2:g B1:2 33.706844 $W=0.039
Rl20 B1 Mmn5@3:g 106.868134 $W=0.039
Rl21 B1 Mmn5:g 103.079681 $W=0.039
*
*|NET net144 1.06836e-15
*|I (Mmn1:d Mmn1 d X 0 0.1650 0.4450)
*|I (Mmn3@1:g Mmn3@1 g X 0 1.3575 0.4050)
*|I (Mmn3@2:g Mmn3@2 g X 0 1.5625 0.4050)
*|I (Mmn3@3:g Mmn3@3 g X 0 1.9775 0.4050)
*|I (Mmn3:g Mmn3 g X 0 2.1825 0.4050)
*|I (Mmp1:d Mmp1 d X 0 0.2400 1.2200)
*|I (Mmp3@1:g Mmp3@1 g X 0 1.1575 1.1500)
*|S (net144:15 0.1550 0.5150)
C26 Mmp3@1:g VSS 6.04851e-16
C27 Mmp1:d VSS 8.46441e-17
C28 Mmn3:g VSS 2.48244e-17
C29 Mmn3@3:g VSS 4.49834e-17
C30 Mmn3@2:g VSS 6.23482e-17
C31 Mmn3@1:g VSS 4.66431e-17
C32 Mmn1:d VSS 2.00064e-16
Rl22 Mmp3@1:g Mmn3@1:g 28.952578 $W=0.039
Rl23 Mmn3@2:g Mmp3@1:g 82.669495 $W=0.039
Rl24 Mmp3@1:g Mmn3@3:g 29.578981 $W=0.039
Rl25 Mmp3@1:g Mmn3:g 30.002762 $W=0.039
Rk26 net144:15 Mmn1:d 75.000000 $W=0.08
Rk27 net144:15 Mmp1:d 62.651657 $W=0.09
Rk28 net144:15 Mmp3@1:g 1.250359 $W=0.08
*
*|NET net148 1.04493e-15
*|I (Mmn0:d Mmn0 d X 0 0.6500 0.4450)
*|I (Mmn2@1:g Mmn2@1 g X 0 1.2525 0.4050)
*|I (Mmn2@2:g Mmn2@2 g X 0 1.6675 0.4050)
*|I (Mmn2@3:g Mmn2@3 g X 0 1.8725 0.4050)
*|I (Mmn2:g Mmn2 g X 0 2.3875 0.4050)
*|I (Mmp0:d Mmp0 d X 0 0.6950 1.0850)
*|I (Mmp2@1:g Mmp2@1 g X 0 0.9525 1.1500)
*|S (net148:16 0.6800 0.8150)
C33 Mmp2@1:g VSS 6.50589e-16
C34 Mmp0:d VSS 5.75355e-17
C35 Mmn2:g VSS 4.92049e-17
C36 Mmn2@3:g VSS 6.23217e-17
C37 Mmn2@2:g VSS 5.81304e-17
C38 Mmn2@1:g VSS 7.6648e-17
C39 Mmn0:d VSS 4.73461e-17
C40 net148:16 VSS 4.31565e-17
Rl29 Mmn2@1:g Mmp2@1:g 165.080139 $W=0.0385
Rl30 Mmp2@1:g Mmn2@2:g 94.615387 $W=0.039
Rl31 Mmn2@3:g Mmp2@1:g 124.509598 $W=0.039
Rl32 Mmp2@1:g Mmn2:g 102.725746 $W=0.039
Rk33 net148:16 Mmn0:d 75.217659 $W=0.09
Rk34 net148:16 Mmp0:d 62.217228 $W=0.08
Rk35 net148:16 Mmp2@1:g 0.206711 $W=0.08
*
*|NET 11 0
*|I (Mmn2@1:d Mmn2@1 d X 0 1.3050 0.4050)
*|I (Mmn3@1:s Mmn3@1 s X 0 1.3050 0.4050)
Rmw36 Mmn3@1:s Mmn2@1:d 0.001000 $W=1
*
*|NET 12 1.73025e-18
*|I (Mmn3@2:s Mmn3@2 s X 0 1.6150 0.4050)
*|I (Mmn2@2:d Mmn2@2 d X 0 1.6150 0.4050)
C41 Mmn3@2:s VSS 1.73025e-18
Rmw37 Mmn2@2:d Mmn3@2:s 0.001000 $W=1
*
*|NET 13 1.73025e-18
*|I (Mmn2@3:d Mmn2@3 d X 0 1.9250 0.4050)
*|I (Mmn3@3:s Mmn3@3 s X 0 1.9250 0.4050)
C42 Mmn2@3:d VSS 1.73025e-18
Rmw38 Mmn3@3:s Mmn2@3:d 0.001000 $W=1
*
*|NET 14 4.73764e-18
*|I (Mmn3:s Mmn3 s X 0 2.2850 0.4050)
*|I (Mmn2:d Mmn2 d X 0 2.2850 0.4050)
C43 Mmn3:s VSS 4.73764e-18
Rmw39 Mmn2:d Mmn3:s 0.001000 $W=1
*
*|NET 15 5.31476e-18
*|I (Mmn4@1:s Mmn4@1 s X 0 2.7100 0.4050)
*|I (Mmn5@1:d Mmn5@1 d X 0 2.7100 0.4050)
C44 Mmn4@1:s VSS 5.31476e-18
Rmw40 Mmn5@1:d Mmn4@1:s 0.001000 $W=1
*
*|NET 16 0
*|I (Mmn5@2:d Mmn5@2 d X 0 3.1200 0.4050)
*|I (Mmn4@2:s Mmn4@2 s X 0 3.1200 0.4050)
Rmw41 Mmn4@2:s Mmn5@2:d 0.001000 $W=1
*
*|NET 17 2.03972e-18
*|I (Mmn4@3:s Mmn4@3 s X 0 3.4750 0.4050)
*|I (Mmn5@3:d Mmn5@3 d X 0 3.4750 0.4050)
C45 Mmn4@3:s VSS 2.03972e-18
Rmw42 Mmn5@3:d Mmn4@3:s 0.001000 $W=1
*
*|NET 18 1.00853e-17
*|I (Mmn5:d Mmn5 d X 0 3.8975 0.4050)
*|I (Mmn4:s Mmn4 s X 0 3.8975 0.4050)
C46 Mmn5:d VSS 1.00853e-17
Rmw43 Mmn4:s Mmn5:d 0.001000 $W=1
*
*|NET net127 7.30362e-16
*|I (Mmp2@1:d Mmp2@1 d X 0 0.8800 1.1500)
C47 Mmp2@1:d VSS 7.30362e-16
*
*Instance Section
*
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0364P	AS=0.0611P	PD=0.8U	PS=0.99U
+ fw=2.6e-07 sa=1.4e-07 sb=4.6e-07 sca=10.79 scb=0.0100512 scc=0.000418069
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0468P	AS=0.0611P	PD=0.88U	PS=0.99U
+ fw=2.6e-07 sa=4.2e-07 sb=1.8e-07 sca=10.79 scb=0.0100512 scc=0.000418069
Mmn2@1	Mmn2@1:d	Mmn2@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.0364P	PD=0.64U	PS=0.8U
+ fw=2.6e-07 sa=1.4e-07 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn3@1	Mmn3@1:d	Mmn3@1:g	Mmn3@1:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0156P	PD=0.84U	PS=0.64U
+ fw=2.6e-07 sa=2.45e-07 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn3@2	Mmn3@1:d	Mmn3@2:g	Mmn3@2:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0156P	PD=0.84U	PS=0.64U
+ fw=2.6e-07 sa=4.5e-07 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn2@2	Mmn2@2:d	Mmn2@2:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.0416P	PD=0.64U	PS=0.84U
+ fw=2.6e-07 sa=5.55e-07 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn2@3	Mmn2@3:d	Mmn2@3:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.0416P	PD=0.64U	PS=0.84U
+ fw=2.6e-07 sa=7.6e-07 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn3@3	Mmn3@3:d	Mmn3@3:g	Mmn3@3:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0156P	PD=0.84U	PS=0.64U
+ fw=2.6e-07 sa=8.65e-07 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn3	Mmn3@3:d	Mmn3:g	Mmn3:s	VSS	g45n1hvt	L=0.045U
+ W=0.26U
+ AD=0.0416P	AS=0.0416P	PD=0.84U	PS=0.84U
+ fw=2.6e-07 sa=1.07e-06 sb=1.93e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn2	Mmn2:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0416P	PD=0.84U	PS=0.84U
+ fw=2.6e-07 sa=1.275e-06 sb=1.725e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn4@1	VSS	Mmn4@1:g	Mmn4@1:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0494P	PD=0.84U	PS=0.9U
+ fw=2.6e-07 sa=1.48e-06 sb=1.52e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn5@1	Mmn5@1:d	Mmn5@1:g	Mmn5@1:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0494P	AS=0.0416P	PD=0.9U	PS=0.84U
+ fw=2.6e-07 sa=1.715e-06 sb=1.285e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn5@2	Mmn5@2:d	Mmn5@2:g	Mmn5@1:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0338P	AS=0.0416P	PD=0.78U	PS=0.84U
+ fw=2.6e-07 sa=1.92e-06 sb=1.08e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn4@2	VSS	Mmn4@2:g	Mmn4@2:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0338P	PD=0.84U	PS=0.78U
+ fw=2.6e-07 sa=2e-06 sb=9.05e-07 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn4@3	VSS	Mmn4@3:g	Mmn4@3:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0208P	PD=0.84U	PS=0.68U
+ fw=2.6e-07 sa=2e-06 sb=7e-07 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn5@3	Mmn5@3:d	Mmn5@3:g	Mmn5@3:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0208P	AS=0.0624P	PD=0.68U	PS=1U
+ fw=2.6e-07 sa=2e-06 sb=5.75e-07 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn5	Mmn5:d	Mmn5:g	Mmn5@3:s	VSS	g45n1hvt	L=0.045U
+ W=0.26U
+ AD=0.0273P	AS=0.0624P	PD=0.73U	PS=1U
+ fw=2.6e-07 sa=2e-06 sb=2.9e-07 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn4	VSS	Mmn4:g	Mmn4:s	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0364P	AS=0.0273P	PD=0.8U	PS=0.73U
+ fw=2.6e-07 sa=2e-06 sb=1.4e-07 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0546P	AS=0.0624P	PD=1.06U	PS=1.1U
+ fw=3.9e-07 sa=1.4e-07 sb=3.26538e-07 sca=18.6612 scb=0.0194292 scc=0.000712894
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0474P	AS=0.0624P	PD=1.12U	PS=1.1U
+ fw=3.9e-07 sa=3.45e-07 sb=1.21538e-07 sca=14.9537 scb=0.0131754 scc=0.000560012
Mmp4@1	Y	B0	Mmp2@1:d	VDD	g45p1hvt	L=0.045U
+ W=0.39U
+ AD=0.0624P	AS=0.06045P	PD=1.1U	PS=1.09U	M=4
+ fw=3.9e-07 sa=1.75231e-06 sb=1.575e-06 sca=18.3796 scb=0.0159892 scc=0.00159615
Mmp5@1	Y	B1	Mmp2@1:d	VDD	g45p1hvt	L=0.045U
+ W=0.39U
+ AD=0.0624P	AS=0.0624P	PD=1.1U	PS=1.1U	M=4
+ fw=3.9e-07 sa=1.95731e-06 sb=1.37e-06 sca=18.3796 scb=0.0159892 scc=0.00159615
Mmp2@1	Mmp2@1:d	Mmp2@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.05775P	AS=0.0624P	PD=1.09U	PS=1.1U	M=4
+ fw=3.9e-07 sa=1.12308e-07 sb=2e-06 sca=18.3986 scb=0.0159927 scc=0.00159615
Mmp3@1	Mmp2@1:d	Mmp3@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0624P	PD=1.1U	PS=1.1U	M=4
+ fw=3.9e-07 sa=3.17308e-07 sb=2e-06 sca=18.3796 scb=0.0159892 scc=0.00159615
.ENDS
.END
