*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:05:16 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "AOI211X4"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  AOI211X4 C0 A1 B0 Y A0
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET C0 3.53813e-16
*|P (C0 X 0 3.3000 0.6650)
C1 C0 VSS 3.53813e-16
*
*|NET A1 6.80227e-16
*|P (A1 X 0 0.9000 0.8550)
*|I (Mmn1@1:g Mmn1@1 g X 0 0.7175 0.4050)
*|I (Mmn1@2:g Mmn1@2 g X 0 0.9225 0.4050)
*|I (Mmn1@3:g Mmn1@3 g X 0 1.3375 0.4050)
*|I (Mmn1:g Mmn1 g X 0 1.5425 0.4050)
*|S (A1:2 0.7450 0.6325)
*|S (A1:9 1.3650 0.7775)
C2 Mmn1:g VSS 6.30932e-17
C3 Mmn1@3:g VSS 5.57335e-17
C4 Mmn1@2:g VSS 6.58157e-17
C5 Mmn1@1:g VSS 4.62244e-17
C6 A1:9 VSS 3.50297e-17
C7 A1:2 VSS 3.18947e-17
C8 A1 VSS 3.82436e-16
Rl1 A1:2 A1 29.441456 $W=0.094
Rl2 A1:9 A1 6.303158 $W=0.094
Rl3 A1:2 Mmn1@1:g 32.755695 $W=0.039
Rl4 Mmn1@2:g A1:2 82.176826 $W=0.039
Rl5 A1:9 Mmn1@3:g 88.524925 $W=0.039
Rl6 Mmn1:g A1:9 137.946060 $W=0.039
*
*|NET B0 4.26611e-16
*|P (B0 X 0 2.5000 0.8550)
*|I (Mmn2@1:g Mmn2@1 g X 0 1.8925 0.4050)
C9 Mmn2@1:g VSS 4.05987e-16
C10 B0 VSS 2.06237e-17
Rk7 Mmn2@1:g B0 0.036190 $W=0.1
*
*|NET Y 8.14534e-16
*|P (Y X 0 1.9000 0.6650)
*|I (Mmn1@1:d Mmn1@1 d X 0 0.8200 0.4050)
*|I (Mmn1@3:d Mmn1@3 d X 0 1.4400 0.4050)
*|I (Mmn2@1:d Mmn2@1 d X 0 1.9950 0.4050)
*|I (Mmn3@1:d Mmn3@1 d X 0 2.9150 0.4050)
*|I (Mmp3@1:d Mmp3@1 d X 0 3.0150 1.2400)
*|S (Y:3 1.9350 0.6650)
*|S (Y:4 1.9350 0.4850)
*|S (Y:6 1.4400 0.4750)
C11 Mmp3@1:d VSS 2.42884e-16
C12 Mmn3@1:d VSS 1.23794e-16
C13 Mmn2@1:d VSS 6.14401e-17
C14 Mmn1@3:d VSS 9.86728e-17
C15 Mmn1@1:d VSS 6.95625e-17
C16 Y:4 VSS 6.86655e-17
C17 Y:3 VSS 1.36565e-16
C18 Y VSS 1.29517e-17
Rk8 Y:3 Y 0.003066 $W=0.08
Rk9 Y:4 Y:3 0.107222 $W=0.1
Rk10 Y:6 Y:4 0.384506 $W=0.08
Rk11 Y:6 Mmn1@1:d 75.465622 $W=0.08
Rk12 Y:6 Mmn1@3:d 75.000000 $W=0.08
Rk13 Y:4 Mmn2@1:d 0.058231 $W=0.1
Rk14 Mmn2@1:d Mmn3@1:d 0.300623 $W=0.09
Rk15 Y:3 Mmp3@1:d 1.118692 $W=0.06
*
*|NET A0 8.87546e-16
*|P (A0 X 0 0.3000 0.6650)
*|I (Mmn0@1:g Mmn0@1 g X 0 0.6125 0.4050)
*|I (Mmn0@2:g Mmn0@2 g X 0 1.0275 0.4050)
*|I (Mmn0@3:g Mmn0@3 g X 0 1.2325 0.4050)
*|I (Mmn0:g Mmn0 g X 0 1.6475 0.4050)
C19 Mmn0:g VSS 5.82113e-17
C20 Mmn0@3:g VSS 6.69943e-17
C21 Mmn0@2:g VSS 4.79291e-17
C22 Mmn0@1:g VSS 7.73058e-17
C23 A0 VSS 6.37105e-16
Rl16 Mmn0@1:g A0 140.361801 $W=0.039
Rl17 A0 Mmn0@2:g 39.528381 $W=0.039
Rl18 Mmn0@3:g A0 85.359749 $W=0.039
Rl19 A0 Mmn0:g 41.483517 $W=0.039
*
*|NET 10 0
*|I (Mmn0@1:d Mmn0@1 d X 0 0.6650 0.4050)
*|I (Mmn1@1:s Mmn1@1 s X 0 0.6650 0.4050)
Rmw20 Mmn1@1:s Mmn0@1:d 0.001000 $W=1
*
*|NET 11 1.7621e-18
*|I (Mmn1@2:s Mmn1@2 s X 0 0.9750 0.4050)
*|I (Mmn0@2:d Mmn0@2 d X 0 0.9750 0.4050)
C24 Mmn1@2:s VSS 1.7621e-18
Rmw21 Mmn0@2:d Mmn1@2:s 0.001000 $W=1
*
*|NET 12 1.7621e-18
*|I (Mmn0@3:d Mmn0@3 d X 0 1.2850 0.4050)
*|I (Mmn1@3:s Mmn1@3 s X 0 1.2850 0.4050)
C25 Mmn0@3:d VSS 1.7621e-18
Rmw22 Mmn1@3:s Mmn0@3:d 0.001000 $W=1
*
*|NET 13 1.7621e-18
*|I (Mmn1:s Mmn1 s X 0 1.5950 0.4050)
*|I (Mmn0:d Mmn0 d X 0 1.5950 0.4050)
C26 Mmn1:s VSS 1.7621e-18
Rmw23 Mmn0:d Mmn1:s 0.001000 $W=1
*
*|NET net91 5.17729e-16
*|I (Mmp0@1:d Mmp0@1 d X 0 0.3650 1.2400)
*|I (Mmp2@1:s Mmp2@1 s X 0 2.1950 1.2400)
C27 Mmp2@1:s VSS 2.03506e-16
C28 Mmp0@1:d VSS 3.14223e-16
Rk24 Mmp2@1:s Mmp0@1:d 0.444496 $W=0.08
*
*|NET net82 3.50303e-16
*|I (Mmp2@1:d Mmp2@1 d X 0 2.0200 1.2400)
C29 Mmp2@1:d VSS 3.50303e-16
*
*Instance Section
*
Mmn0@1	Mmn0@1:d	Mmn0@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.0364P	PD=0.64U	PS=0.8U
+ fw=2.6e-07 sa=1.4e-07 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn1@1	Mmn1@1:d	Mmn1@1:g	Mmn1@1:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0156P	PD=0.84U	PS=0.64U
+ fw=2.6e-07 sa=2.45e-07 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn1@2	Mmn1@1:d	Mmn1@2:g	Mmn1@2:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0156P	PD=0.84U	PS=0.64U
+ fw=2.6e-07 sa=4.5e-07 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn0@2	Mmn0@2:d	Mmn0@2:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.0416P	PD=0.64U	PS=0.84U
+ fw=2.6e-07 sa=5.55e-07 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn0@3	Mmn0@3:d	Mmn0@3:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.0416P	PD=0.64U	PS=0.84U
+ fw=2.6e-07 sa=7.6e-07 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn1@3	Mmn1@3:d	Mmn1@3:g	Mmn1@3:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0156P	PD=0.84U	PS=0.64U
+ fw=2.6e-07 sa=8.65e-07 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn1	Mmn1@3:d	Mmn1:g	Mmn1:s	VSS	g45n1hvt	L=0.045U
+ W=0.26U
+ AD=0.0416P	AS=0.0156P	PD=0.84U	PS=0.64U
+ fw=2.6e-07 sa=1.07e-06 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.052P	PD=0.64U	PS=0.92U
+ fw=2.6e-07 sa=1.175e-06 sb=1.95e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn2@1	Mmn2@1:d	Mmn2@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.04225P	AS=0.05492P	PD=0.845U	PS=0.9425U	M=4
+ fw=2.6e-07 sa=1.42e-06 sb=1.705e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn3@1	Mmn3@1:d	C0	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.26U
+ AD=0.0416P	AS=0.04582P	PD=0.84U	PS=0.8725U	M=4
+ fw=2.6e-07 sa=2e-06 sb=7.85e-07 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmp0@1	Mmp0@1:d	A0	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.39U
+ AD=0.0624P	AS=0.05914P	PD=1.1U	PS=1.1925U	M=4
+ fw=3.9e-07 sa=1.4e-07 sb=1.535e-06 sca=21.0705 scb=0.0236471 scc=0.000934065
Mmp1@1	Mmp0@1:d	A1	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.39U
+ AD=0.0624P	AS=0.0624P	PD=1.1U	PS=1.1U	M=4
+ fw=3.9e-07 sa=3.45e-07 sb=1.33e-06 sca=15.0091 scb=0.0134988 scc=0.00042661
Mmp3@1	Mmp3@1:d	C0	Mmp2@1:d	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.06045P	PD=1.1U	PS=1.09U	M=4
+ fw=3.9e-07 sa=9.59487e-07 sb=7.55e-07 sca=12.5232 scb=0.0108581 scc=0.000412418
Mmp2@1	Mmp2@1:d	Mmn2@1:g	Mmp2@1:s	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0604P	AS=0.0624P	PD=1.09U	PS=1.1U
+ M=4
+ fw=3.9e-07 sa=1.39487e-07 sb=1.575e-06 sca=12.3656 scb=0.0108222 scc=0.000412413
.ENDS
.END
