*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:07:16 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "AOI22X2"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  AOI22X2 Y B1 A0 B0 A1
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET Y 4.55224e-16
*|P (Y X 0 1.1000 0.8550)
*|I (Mmn1@1:d Mmn1@1 d X 0 0.7700 0.4450)
*|I (Mmn3@1:d Mmn3@1 d X 0 1.6250 0.4450)
*|I (Mmp2:d Mmp2 d X 0 1.4600 1.1200)
*|S (Y:4 1.1950 0.8550)
*|S (Y:5 1.1950 0.4450)
C1 Mmp2:d VSS 1.97644e-16
C2 Mmn3@1:d VSS 5.0633e-17
C3 Mmn1@1:d VSS 5.36995e-17
C4 Y:5 VSS 7.14158e-17
C5 Y:4 VSS 4.39301e-17
C6 Y VSS 3.79012e-17
Rk1 Y:4 Y 0.061486 $W=0.1
Rk2 Y:5 Y:4 0.250409 $W=0.08
Rk3 Y:5 Mmn1@1:d 75.323235 $W=0.08
Rk4 Y:5 Mmn3@1:d 75.309479 $W=0.09
Rk5 Y:4 Mmp2:d 0.273806 $W=0.09
*
*|NET B1 2.83347e-16
*|P (B1 X 0 1.7000 0.8550)
*|I (Mmn3@1:g Mmn3@1 g X 0 1.5225 0.4450)
*|I (Mmn3:g Mmn3 g X 0 1.7275 0.4450)
*|I (Mmp3@1:g Mmp3@1 g X 0 1.5625 1.1200)
*|S (B1:3 1.6900 0.6725)
*|S (B1:7 1.6900 0.8000)
*|S (B1:8 1.6950 0.8000)
*|S (B1:9 1.6950 0.8550)
C7 Mmp3@1:g VSS 9.70409e-17
C8 Mmn3:g VSS 3.4551e-17
C9 Mmn3@1:g VSS 4.76982e-17
C10 B1:8 VSS 2.79725e-17
C11 B1:3 VSS 1.87409e-17
C12 B1 VSS 5.73436e-17
Rl6 B1:3 Mmn3@1:g 75.206268 $W=0.039
Rl7 B1:3 Mmn3:g 32.218704 $W=0.039
Rl8 Mmp3@1:g B1:3 13.586253 $W=0.114
Rk9 B1:7 B1:8 0.001097 $W=0.29
Rk10 B1:9 B1 0.001206 $W=0.29
Rk11 B1:9 B1:8 0.032921 $W=0.1
Rk12 B1:7 Mmp3@1:g 45.000000 $W=0.1
*
*|NET A0 4.50721e-16
*|P (A0 X 0 0.3000 0.6650)
*|I (Mmn0@1:g Mmn0@1 g X 0 0.5625 0.4450)
*|I (Mmn0:g Mmn0 g X 0 0.9775 0.4450)
*|I (Mmp0:g Mmp0 g X 0 0.2725 1.1200)
C13 Mmp0:g VSS 3.18676e-16
C14 Mmn0:g VSS 5.79331e-17
C15 Mmn0@1:g VSS 5.0221e-17
C16 A0 VSS 2.38907e-17
Rl13 Mmn0@1:g Mmp0:g 30.984888 $W=0.039
Rl14 Mmp0:g Mmn0:g 29.537926 $W=0.039
Rk15 Mmp0:g A0 0.119414 $W=0.1
*
*|NET B0 4.29605e-16
*|P (B0 X 0 2.1000 0.8550)
*|I (Mmn2@1:g Mmn2@1 g X 0 1.3575 0.4450)
*|I (Mmn2:g Mmn2 g X 0 1.8725 0.4450)
*|I (Mmp2:g Mmp2 g X 0 1.3575 1.1200)
C17 Mmp2:g VSS 3.13626e-16
C18 Mmn2:g VSS 3.72191e-17
C19 Mmn2@1:g VSS 4.10431e-17
C20 B0 VSS 3.77173e-17
Rl16 Mmp2:g Mmn2@1:g 29.537926 $W=0.039
Rl17 Mmp2:g Mmn2:g 24.795059 $W=0.039
Rk18 Mmp2:g B0 0.183052 $W=0.1
*
*|NET A1 3.09169e-16
*|P (A1 X 0 0.7000 0.8550)
*|I (Mmn1@1:g Mmn1@1 g X 0 0.6675 0.4450)
*|I (Mmn1:g Mmn1 g X 0 0.8725 0.4450)
*|I (Mmp1@1:g Mmp1@1 g X 0 0.4775 1.1200)
*|S (A1:2 0.7100 0.7225)
*|S (A1:7 0.7050 0.8150)
*|S (A1:8 0.7100 0.8150)
*|S (A1:9 0.7050 0.8550)
C21 Mmp1@1:g VSS 9.86384e-17
C22 Mmn1:g VSS 5.6375e-17
C23 Mmn1@1:g VSS 5.13924e-17
C24 A1:9 VSS 3.70623e-17
C25 A1:7 VSS 2.88107e-17
C26 A1:2 VSS 3.689e-17
Rl19 A1:2 Mmn1@1:g 51.768490 $W=0.039
Rl20 Mmn1:g A1:2 95.919373 $W=0.039
Rl21 A1:2 Mmp1@1:g 10.399977 $W=0.094
Rk22 A1:8 A1:7 0.001293 $W=0.245
Rk23 A1:9 A1 0.001164 $W=0.245
Rk24 A1:9 A1:7 0.022498 $W=0.11
Rk25 A1:8 Mmp1@1:g 45.000000 $W=0.11
*
*|NET 9 0
*|I (Mmn0@1:d Mmn0@1 d X 0 0.6150 0.4450)
*|I (Mmn1@1:s Mmn1@1 s X 0 0.6150 0.4450)
Rmw26 Mmn1@1:s Mmn0@1:d 0.001000 $W=1
*
*|NET 10 1.596e-18
*|I (Mmn1:s Mmn1 s X 0 0.9250 0.4450)
*|I (Mmn0:d Mmn0 d X 0 0.9250 0.4450)
C27 Mmn1:s VSS 1.596e-18
Rmw27 Mmn0:d Mmn1:s 0.001000 $W=1
*
*|NET 11 3.31755e-18
*|I (Mmn2@1:d Mmn2@1 d X 0 1.4400 0.4450)
*|I (Mmn3@1:s Mmn3@1 s X 0 1.4400 0.4450)
C28 Mmn2@1:d VSS 3.31755e-18
Rmw28 Mmn3@1:s Mmn2@1:d 0.001000 $W=1
*
*|NET 12 0
*|I (Mmn3:s Mmn3 s X 0 1.8000 0.4450)
*|I (Mmn2:d Mmn2 d X 0 1.8000 0.4450)
Rmw29 Mmn2:d Mmn3:s 0.001000 $W=1
*
*|NET net89 3.87375e-16
*|I (Mmp0:d Mmp0 d X 0 0.1800 1.1200)
*|I (Mmp1@1:d Mmp1@1 d X 0 0.5800 1.1200)
*|I (Mmp3@1:s Mmp3@1 s X 0 1.6650 1.1200)
C29 Mmp3@1:s VSS 1.1181e-16
C30 Mmp1@1:d VSS 3.47449e-17
C31 Mmp0:d VSS 2.4082e-16
Rk30 Mmp0:d Mmp1@1:d 31.062418 $W=0.08
Rk31 Mmp0:d Mmp3@1:s 62.000000 $W=0.08
*
*Instance Section
*
Mmn0@1	Mmn0@1:d	Mmn0@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.0364P	PD=0.64U	PS=0.8U
+ fw=2.6e-07 sa=1.4e-07 sb=1.45e-06 sca=10.79 scb=0.0100512 scc=0.000418069
Mmn1@1	Mmn1@1:d	Mmn1@1:g	Mmn1@1:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0156P	PD=0.84U	PS=0.64U
+ fw=2.6e-07 sa=2.45e-07 sb=1.345e-06 sca=10.79 scb=0.0100512 scc=0.000418069
Mmn1	Mmn1@1:d	Mmn1:g	Mmn1:s	VSS	g45n1hvt	L=0.045U
+ W=0.26U
+ AD=0.0416P	AS=0.0156P	PD=0.84U	PS=0.64U
+ fw=2.6e-07 sa=4.5e-07 sb=1.14e-06 sca=10.79 scb=0.0100512 scc=0.000418069
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.0979P	PD=0.64U	PS=1.37U
+ fw=2.6e-07 sa=5.55e-07 sb=1.035e-06 sca=10.79 scb=0.0100512 scc=0.000418069
Mmn2@1	Mmn2@1:d	Mmn2@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0312P	AS=0.0979P	PD=0.76U	PS=1.37U
+ fw=2.6e-07 sa=9.35e-07 sb=6.55e-07 sca=10.79 scb=0.0100512 scc=0.000418069
Mmn3@1	Mmn3@1:d	Mmn3@1:g	Mmn3@1:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0312P	PD=0.84U	PS=0.76U
+ fw=2.6e-07 sa=1.1e-06 sb=4.9e-07 sca=10.79 scb=0.0100512 scc=0.000418069
Mmn3	Mmn3@1:d	Mmn3:g	Mmn3:s	VSS	g45n1hvt	L=0.045U
+ W=0.26U
+ AD=0.0416P	AS=0.026P	PD=0.84U	PS=0.72U
+ fw=2.6e-07 sa=1.305e-06 sb=2.85e-07 sca=10.79 scb=0.0100512 scc=0.000418069
Mmn2	Mmn2:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.026P	AS=0.0364P	PD=0.72U	PS=0.8U
+ fw=2.6e-07 sa=1.45e-06 sb=1.4e-07 sca=10.79 scb=0.0100512 scc=0.000418069
Mmp3@1	Mmp2:d	Mmp3@1:g	Mmp3@1:s	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0624P	PD=1.1U	PS=1.1U	M=2
+ fw=3.9e-07 sa=1.43e-06 sb=5.5e-07 sca=24.4001 scb=0.0188912 scc=0.00243299
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.09262P	AS=0.07995P	PD=1.255U	PS=1.19U	M=2
+ fw=3.9e-07 sa=1.4e-07 sb=1.84e-06 sca=31.4293 scb=0.0302361 scc=0.00287283
Mmp1@1	Mmp1@1:d	Mmp1@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.07995P	PD=1.1U	PS=1.19U	M=2
+ fw=3.9e-07 sa=3.45e-07 sb=1.635e-06 sca=25.8099 scb=0.0207374 scc=0.00244421
Mmp2	Mmp2:d	Mmp2:g	Mmp0:d	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.09262P	PD=1.1U	PS=1.255U	M=2
+ fw=3.9e-07 sa=1.225e-06 sb=7.55e-07 sca=23.571 scb=0.0183444 scc=0.00243237
.ENDS
.END
